US07592373B2
1.422.b. tert-butyl[1-(4-iodophenyl)cyclopropyl]carbamate
0.43 mL (4 mmol) of N,N′-dimethylethylenediamine is added to a reaction mixture of 0.4 g (2 mmol) of copper (I) iodide, 6.2 g (19.86 mmol) of tert-butyl [1-(4-bromophenyl)-cyclopropyl]carbamate, and 6 g (40 mmol) of sodium iodide in 15 mL of 1,4-dioxane and refluxed for 24 hours under nitrogen. Then the cooled suspension is combined with 30% ammonia solution, poured onto distilled water, and extracted with dichloromethane. The organic phase is dried over sodium sulfate, filtered, and the solvent is distilled off. Yield: 6.60 g (93% of theory); C14H18INO2 (M=359.20); calc.: molecular ion peak (M+H)+: 360; found: molecular ion peak (M+H)+: 360; Rf value: 0.8 (silica gel, dichloromethane/ethanol (50:1)).

reactant | N,N′-dimethylethylenediamine | 4 mmol, 0.43 mL | CNCCNC | C4H12N2
reactant | tert-butyl [1-(4-bromophenyl)-cyclopropyl]carbamate | 19.86 mmol, 6.2 g | BrC1=CC=C(C=C1)C1(CC1)NC(OC(C)(C)C)=O | C14H18BrNO2
reactant | sodium iodide | 40 mmol, 6 g | [I-].[Na+]
reactant | ammonia | N | H3N
solvent | 1,4-dioxane | 15 mL | O1CCOCC1 | C4H8O2
catalyst | copper (I) iodide | 2 mmol, 0.4 g | [Cu]I
product | tert-butyl[1-(4-iodophenyl)cyclopropyl]carbamate | C(C)(C)(C)OC(NC1(CC1)C1=CC=C(C=C1)I)=O | C14H18INO2
